US07087750B2
1-([1,1′-Biphenyl]-4-yl-sulfonyl)-4-(1-piperazinyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 1,1 ′-biphenyl-4-ylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.26 (br, 1H), 8.04 (m, 2 H), 7.88 (m, 3 H), 7.67 (m, 3 H), 7.46 (m, 3 H), 7.27 (t, J=8 Hz, 1 H), 6.96 (d, J=5 Hz, 1 H), 6.80 (d, J=8 Hz, 1 H), 3.25 (m, 8 H); MS (ESI+) for m/z 418 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 1,1 ′-biphenyl-4-ylsulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | 1-([1,1′-Biphenyl]-4-yl-sulfonyl)-4-(1-piperazinyl)-1H-indole hydrochloride | Cl.C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1)C1=CC=CC=C1 | InChI=1S/C24H23N3O2S.ClH/c28-30(29,21-11-9-20(10-12-21)19-5-2-1-3-6-19)27-16-13-22-23(7-4-8-24(22)27)26-17-14-25-15-18-26;/h1-13,16,25H,14-15,17-18H2;1H
